US05705499
2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(pyrid-4-ylthio)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
Using a procedure analogous to that described in Example 117, the title compound, m.p. 140°-142° C., was prepared from 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and 4-mercaptopyridine. The yield was 79% of theory.

reactant | 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCl)=O)C | C15H14Cl2N4O
reactant | 4-mercaptopyridine | SC1=CC=NC=C1 | C5H5NS
product | 2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(pyrid-4-ylthio)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | yield was 79% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CSC3=CC=NC=C3)=O)C | C20H18ClN5OS
